US05506234
5-(2-Chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester
5-(4-chlorobenzyl)-4-ethyl-β-carboline-3-carboxylic acid ethyl ester from 5-(4-chlorobenzyl)-indole and 3-hydroxy-2-nitrovaleric acid ethyl ester, melting point 265° C. (ethyl acetate);

reactant | 5-(4-chlorobenzyl)-4-ethyl-β-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1CC)CC1=CC=C(C=C1)Cl | C23H21ClN2O2
reactant | 5-(4-chlorobenzyl)-indole | ClC1=CC=C(CC=2C=C3C=CNC3=CC2)C=C1 | C15H12ClN
reactant | 3-hydroxy-2-nitrovaleric acid ethyl ester | C(C)OC(C(C(CC)O)[N+](=O)[O-])=O | C7H13NO5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CC1=C(C=CC=C1)Cl | C23H21ClN2O3
